US07601843B2
N-[1-[2-[1-[2-(Morpholino)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide dihydrochloride
After adding a 4N hydrochloric acid/ethyl acetate solution (0.5 mL, 2.0 mmol) to a solution of N-[1-[2-[1-[2-(morpholino)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide (283 mg, 0.56 mmol) in ethyl acetate (4 mL), the mixture was stirred at room temperature for 10 minutes (producing a white precipitate). Ethanol (0.5 mL) was added to the reaction mixture (to dissolve the precipitate), and the solution was concentrated under reduced pressure to obtain the title compound as a white amorphous solid (283 mg) (87% yield).

reactant | hydrochloric acid ethyl acetate | 2.0 mmol, 4N, 0.5 mL | Cl.C(C)(=O)OCC
reactant | N-[1-[2-[1-[2-(morpholino)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 0.56 mmol, 283 mg | O1CCN(CC1)CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C | C31H45N3O3
reactant | Ethanol | 0.5 mL | C(C)O | C2H6O
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | N-[1-[2-[1-[2-(Morpholino)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide dihydrochloride | Cl.Cl.O1CCN(CC1)CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C | InChI=1S/C31H45N3O3.2ClH/c1-26-7-9-27(10-8-26)34(30(35)29-6-5-23-37-29)28-11-17-32(18-12-28)19-15-31(13-3-2-4-14-31)16-20-33-21-24-36-25-22-33;;/h5-10,23,28H,2-4,11-22,24-25H2,1H3;2*1H
